### PR TITLE
[Merged by Bors] - chore: more simpNF cleanup

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 1]
```diff
@@ -1734,42 +1733,21 @@ theorem curryFinFinset_symm_apply_piecewise_const {k l n : ℕ} {s : Finset (Fin
     rw [finSumEquivOfFinset_inr, Finset.piecewise_eq_of_not_mem]
     exact Finset.mem_compl.1 (Finset.orderEmbOfFin_mem _ _ _)
 
-@[simp]
-theorem curryFinFinset_symm_apply_piecewise_const_aux {k l n : ℕ} {s : Finset (Fin n)}
```
Comment (kim-em) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1738]: These are unused, and only existed in the first place to satisfy a linter warning. Easier if we'd just removed `@[simp]` to begin with!

File: Mathlib/NumberTheory/Modular.lean [hunk 2]
```diff
@@ -181,7 +181,7 @@ def lcRow0Extend {cd : Fin 2 → ℤ} (hcd : IsCoprime (cd 0) (cd 1)) :
       exact hcd.sq_add_sq_ne_zero, LinearEquiv.refl ℝ (Fin 2 → ℝ)]
 
 -- `simpNF` times out, but only in CI where all of `Mathlib` is imported
-attribute [nolint simpNF] lcRow0Extend_apply lcRow0Extend_symm_apply
+-- attribute [nolint simpNF] lcRow0Extend_apply lcRow0Extend_symm_apply
```
Comment (kim-em) [inline Mathlib/NumberTheory/Modular.lean:184]: Still checking in CI.

Comment (adomani) [reply Mathlib/NumberTheory/Modular.lean:184]: It looks like CI liked the change!

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1738]: Just flagging this removed lemma, in case you want to deprecate it.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 3]
```diff
@@ -1734,42 +1733,21 @@ theorem curryFinFinset_symm_apply_piecewise_const {k l n : ℕ} {s : Finset (Fin
...
     (hl : #sᶜ = l) (f : MultilinearMap R (fun _ : Fin n => M') M₂) (x y : M') :
     (curryFinFinset R M₂ M' hk hl f (fun _ => x) fun _ => y) =
       f (s.piecewise (fun _ => x) fun _ => y) := by
+  -- Porting note: `rw` fails
   refine (curryFinFinset_symm_apply_piecewise_const hk hl _ _ _).symm.trans ?_
-  -- `rw` fails
   rw [LinearEquiv.symm_apply_apply]
 
-@[simp]
-theorem curryFinFinset_apply_const_aux {k l n : ℕ} {s : Finset (Fin n)} (hk : #s = k)
```
Comment (adomani) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1766]: Just flagging this removed lemma, in case you want to deprecate it.

**Review by adomani — APPROVED** [review]
Thanks: this looks good to me!

bors d+

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1738]: I think we're okay to not deprecate `_aux` lemmas.

File: Mathlib/NumberTheory/Modular.lean [hunk 4]
```diff
@@ -181,7 +181,7 @@ def lcRow0Extend {cd : Fin 2 → ℤ} (hcd : IsCoprime (cd 0) (cd 1)) :
       exact hcd.sq_add_sq_ne_zero, LinearEquiv.refl ℝ (Fin 2 → ℝ)]
 
 -- `simpNF` times out, but only in CI where all of `Mathlib` is imported
```
Comment (kim-em) [inline Mathlib/NumberTheory/Modular.lean:183]:
```suggestion
```

**Comment by kim-em** [comment]
bors merge
